US06362201B1
1-Allyl-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine
To a solution of 1.8 g (10 mmol) of 1-allyl-3-(RS)-formyl-4-(SR)-(cyclopropyl)pyrrolidine and 2.68 g (15 mmol) of 4-(4-fluorophenyl)piperidine in 30 mL of dichloroethane at rt was added portionwise 6.36 g (30 mmol) of sodiumtriacetoxyborohydride. After stirring for 3 h at rt, the reaction mixture was partitioned between CH2Cl2 and sat'd K2CO3. The organic fraction was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chomatography (silica, ethyl acetate:hexanes, 1:3) to give 2.1 g of the title compound.

reactant | 1-allyl-3-(RS)-formyl-4-(SR)-(cyclopropyl)pyrrolidine | 10 mmol, 1.8 g | C(C=C)N1CC(C(C1)C1CC1)C=O | C11H17NO
reactant | 4-(4-fluorophenyl)piperidine | 15 mmol, 2.68 g | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | sodiumtriacetoxyborohydride | 30 mmol, 6.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | 1-Allyl-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine | 2.1 g | C(C=C)N1CC(C(C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C22H31FN2
